US08217051B2
To 1,1,1,3,3,3-hexamethyldisilazane (6.54 mL, 31.5 mmol) (Aldrich) under nitrogen at room temperature was added n-butyllithium (2.5 M, 12.6 mL, 31.5 mmol) (Aldrich). The reaction mixture was stirred at room temperature for 10 minutes. Then dry tetrahydrofuran (50 mL) was added, followed by the addition of 5-fluoro-2-methyl-benzaldehyde (4.35 g, 10.5 mmol) (Platte). After the mixture was stirred at room temperature for 0.5 h, trimethylsilyl chloride (4.11 mL, 31.5 mmol) (Aldrich) was added dropwise. Then the temperature of the mixture was lowered to 0° C. on a cooling ice bath. To this mixture was added triethylamine (5.86 mL, 41 mmol) in one portion, followed by the dropwise addition of a solution of chloroacetyl chloride (3.35 mL, 41 mmol) (Aldrich) in diethyl ether (120 mL). The cooling bath was removed, and the mixture was stirred at room temperature for 1 h. The mixture was quickly filtered on celite under nitrogen, and filtrate was concentrated under reduced pressure to give crude 4-chloro-1-(5-fluoro-2-methyl-phenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene as a yellow gum and used for the next step without further purification.

reactant | 1,1,1,3,3,3-hexamethyldisilazane | 31.5 mmol, 6.54 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | n-butyllithium | 31.5 mmol, 2.5 M, 12.6 mL | C(CCC)[Li]
reactant | 5-fluoro-2-methyl-benzaldehyde | 10.5 mmol, 4.35 g | FC=1C=CC(=C(C=O)C1)C | C8H7FO
reactant | trimethylsilyl chloride | 31.5 mmol, 4.11 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 41 mmol, 5.86 mL | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 41 mmol, 3.35 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | diethyl ether | 120 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 4-chloro-1-(5-fluoro-2-methyl-phenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene | ClC=C(N=CC1=C(C=CC(=C1)F)C)O[Si](C)(C)C | C13H17ClFNOSi
